* source IC555ASG
R_R2         N00838 N00782  5.6k  
C_C2         0 N03334  0.01u   
R_R3         N00970 N00838  6.8k  
C_C1         0 N00970  0.01u   
V_V1         N00782 0 9Vdc
R_R4         N03647 0  1k TC=0,0 
X_X1         0 N00970 N03647 N00782 N03334 N00970 N00838 N00782 555D PARAMS:
+  MAXFREQ=3E6
