* source OOP_AMPW2-1
V_V1         0 N00521 15Vdc
V_V2         N00255 0  
+SIN 0V 0.5V 1k 0 0 0
V_V3         N00528 0 15Vdc
R_R1         N00255 N00262  20k  
R_R2         N00262 N00509  10k  
X_U1         0 N00262 N00528 N00521 N00509 uA741
