* source ELEC2
R_R1         N00167 N00174  500  
R_R2         0 N00167  140  
R_R3         0 N00174  80  
R_R4         N00181 N00226  300  
R_R5         0 N00181  100  
R_R6         0 N00226  50  
V_V1         N00181 N00174 90Vdc
