* source OOP_AMP
Q_Q1         N00366 N00342 N00389 Q2N2222
R_R1         N00366 N00359  1k  
R_R2         0 N00389  270  
R_R3         N00342 N00359  100k  
R_R4         0 N00342  22k  
V_V1         N00359 0 20Vdc
C_C1         N00337 N00342  10u  TC=0,0 
C_C2         N00366 N00380  10u  TC=0,0 
R_R5         0 N00380  10k TC=0,0 
V_V3         N00337 0  
+SIN 0v 0.5v 1k 0 0 0
