* source OOP_AMP2
V_V1         N00420 0  
+SIN 0v 0.1 1k 0 0 0
V_V2         N00352 0 20Vdc
Q_Q1         N00683 N00348 N00363 Q2N2222
R_R1         N00348 N00352  330k  
R_R2         N00683 N00352  1k  
R_R3         0 N00363  560  
R_R4         0 N00386  10k  
C_C1         0 N00348  220u   
C_C2         N00386 N00683  10u   
C_C3         N00363 N00420  10u   
