* source OOP_AMPW2-2
V_V1         0 N00802 15Vdc
V_V2         N00962 0  
+SIN 0V 0.5V 1k 0 0 0
R_R2         N00782 N00792  10k  
R_R1         0 N00782  20k  
X_U1         N00962 N00782 N00978 N00802 N00792 uA741
V_V3         N00978 0 15Vdc
