* source ELEC3
V_V1         N00144 0 15Vdc
R_R1         N00144 N00161  100k  
R_R2         N00144 N00157  1k  
R_R3         0 N00168  330  
Q_Q1         N00157 N00161 N00168 Q2N2222
