* source ELECTORNIC_FOLKFOLK
R_R1         N00172 N00167  2k  
R_R2         N00172 N00176  3k  
R_R3         N00190 0  5k  
V_V1         N00167 N00190 10Vdc
V_V2         N00176 0 4Vdc
