* source IC555
R_R2         N00262 N00309  5k  
R_R1         N00309 N00507  8k  
C_C1         0 N00262  0.01uF   
C_C2         0 N00325  0.01uF   
X_X1         0 N00262 N00652 N00507 N00325 N00262 N00309 N00507 555D PARAMS:
+  MAXFREQ=3E6
V_V1         N00507 0 9Vdc
R_R3         0 N00652  1k  
